US05840917
3-Thiophenecarboxylic acid (3.84 g) was dissolved in tetrahydrofuran (50 ml), and the mixture was cooled to -78° C. n-Butyllithium (1.6M in hexane, 41.3 ml) was slowly added dropwise, and the mixture was stirred at the same temperature for 30 minutes. Iodomethane (3.7 ml) in tetrahydrofuran (10 ml) was added dropwise. The resulting mixture was heated to room temperature and stirred for 15 hours. The mixture was poured into water and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid, and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 2-methyl-3-thiophenecarboxylic acid (3.98 g) as crystals.

reactant | 3-Thiophenecarboxylic acid | 3.84 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | n-Butyllithium | 1.6M, 41.3 ml | C(CCC)[Li]
reactant | Iodomethane | 3.7 ml | IC | CH3I
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-methyl-3-thiophenecarboxylic acid | 3.98 g | CC=1SC=CC1C(=O)O | C6H6O2S
